US03951967
By replacing the 1,2,4-benzothiadiazine derivative employed in Step A-1 by an equivalent quantity of 6-chloro-7-n-propylthio-1,2,4-benzothiadiazine-1,1-dioxide, prepared as described in Example 4, and following substantially the same procedure described in Step A-1 there is obtained 2-sulfamoyl-4-n-propylthio-5-chloroaniline, m.p. 109°-111° C.

reactant | 1,2,4-benzothiadiazine | S1NC=NC2=C1C=CC=C2 | C7H6N2S
reactant | 6-chloro-7-n-propylthio-1,2,4-benzothiadiazine-1,1-dioxide | ClC=1C(=CC2=C(N=CNS2(=O)=O)C1)SCCC | C10H11ClN2O2S2
product | 2-sulfamoyl-4-n-propylthio-5-chloroaniline | S(N)(=O)(=O)C1=C(N)C=C(C(=C1)SCCC)Cl | C9H13ClN2O2S2
